US03943141
a. 7-Chloro-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carbonyl chloride
7-Chloro-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (29.5 g) and thionyl chloride (18 ml) in dry doluene (900 ml) were stirred and heated under reflux for 1 hour. The solution was cooled and the solid that separated was collected. It had m.p. 186.5°-188.5° (98%).

reactant | 7-Chloro-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 29.5 g | ClC1=CC=C2C(C(=CN(C2=N1)CC)C(=O)O)=O | C11H9ClN2O3
reactant | thionyl chloride | 18 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-Chloro-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carbonyl chloride | ClC1=CC=C2C(C(=CN(C2=N1)CC)C(=O)Cl)=O | C11H8Cl2N2O2
